US05212187
N-[5-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]pentyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea
Preparation is effected analogously to Example 63, using 1.04 g (3 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,5-pentanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.75 g (3.3 mmol) of 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography (eluant: chloroform/methanol 9+1) analogously to Example 63 yields the purified title compound in the form of a dry foam; MS (+FAB method): m/z (rel. int.[%])=603 ([M+H]+, 1), 155 (18), 230 (100); IR (KBr): 1640 cm-1 (C=O).

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,5-pentanediamine | 3 mmol, 1.04 g | ClC1=CC=C(C=C1)C(CCN(CCCCCN)C)C1=NC=CC=C1 | C20H28ClN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | 3.3 mmol, 0.75 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[5-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]pentyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea | ClC1=CC=C(C=C1)C(CCN(C)CCCCCNC(=O)NCCSCC=1N=C(SC1)NC(=N)N)C1=NC=CC=C1 | C28H39ClN8OS2
